US04859691
A suspension of alpha-bromo-5-chloro-1,2-benzisoxazole-3-acetic acid (3.39 Kg, 11.7 moles) in toluene (12 L) is heated at 96° C. for 18 hours. The solution is cooled to room temperature and washed with water (2×4 L), saturated sodium bicarbonate solution (2×4 L) and water (2×4 L) before drying over anhydrous sodium sulfate (1 Kg) and filtering. The filtrate is evaporated in vacuo to afford the crude 5-chloro-3-bromomethyl-1,2-benzisoxazole, m.p. 83°-85° C.

reactant | alpha-bromo-5-chloro-1,2-benzisoxazole-3-acetic acid | 11.7 moles, 3.39 Kg | BrC(C(=O)O)C1=NOC2=C1C=C(C=C2)Cl | C9H5BrClNO3
solvent | toluene | 12 L | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-3-bromomethyl-1,2-benzisoxazole | ClC=1C=CC2=C(C(=NO2)CBr)C1 | C8H5BrClNO
